US04758369
Preparation of 11-(methylsulfonyl)peroxyundecanoic acid
A stirred mixture of 3 g of 11-(methylsulfonyl)undecanoic acid and 30 mL of methanesulfonic acid was heated to approximately 40° C. The solid dissolved only partially in the methanesulfonic acid at this temperature. Then 1.29 g of 90% hydrogen peroxide was added dropwise. The temperature of the reaction mixture was reduced to room temperature after twenty minutes of reaction time. For the remainder of the two hour reaction time, the reaction mixture was not heated and became homogeneous. The reaction mixture was then cooled in an ice bath forming a solid which was then filtered from solution. The filtrate was poured onto ice prepared from distilled water. A solid formed which was filtered from solution. The two solids collected were combined and washed several times with cold deionized water until the filtrate was no longer strongly acidic. The solid was dried overnight on a watchglass, weighed 2.91 g and had 4.8% by weight active oxygen (84.1% of theoretical).

reactant | 11-(methylsulfonyl)undecanoic acid | 3 g | CS(=O)(=O)CCCCCCCCCCC(=O)O | C12H24O4S
reactant | hydrogen peroxide | 1.29 g | OO | H2O2
solvent | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | methanesulfonic acid | 30 mL | CS(=O)(=O)O | CH4O3S
product | 11-(methylsulfonyl)peroxyundecanoic acid | CS(=O)(=O)CCCCCCCCCCC(=O)OO | C12H24O5S
